* Netlist generated by ASDL for backend `lvs.klayout`

* ===============================================
* current_mirror_array_nmos
* /Users/jianxunzhu/Documents/GitHub/osic-suite/ASDL/examples/scratch/mosbius_devices/current_mirror_array_nmos.asdl
* ===============================================
.subckt current_mirror_array_nmos iref iout_1x iout_2x iout_4x iout_8x iout_16x VSS
Mmn_ref iref iref VSS VSS nfet_03v3 L=0.5u W=5u NF=6 m=1
Mmn_out1 iout_1x iref VSS VSS nfet_03v3 L=0.5u W=5u NF=6 m=1
Mmn_out2 iout_2x iref VSS VSS nfet_03v3 L=0.5u W=5u NF=6 m=2
Mmn_out4 iout_4x iref VSS VSS nfet_03v3 L=0.5u W=5u NF=6 m=4
Mmn_out8 iout_8x iref VSS VSS nfet_03v3 L=0.5u W=5u NF=6 m=8
Mmn_out16 iout_16x iref VSS VSS nfet_03v3 L=0.5u W=5u NF=6 m=16
.ends